US06518435B1
Production of (E)-8-[({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)imino]-8-phenyloctanoic acid
(E)-8-(Hydroxyimino)-8-phenyloctanoic acid (1.0 g) and 4-{[4-(chloromethyl)phenoxy]methyl}-5-methyl-2-phenyl-1,3-oxazole (1.26 g) were dissolved in 1-methyl-2-pyrrolidone (10 ml), and the solution was ice-cooled. Sodium tert-butoxide (0.85 g) was added to the reaction mixture at not higher than −5° C. and the mixture was stirred at the same temperature for 30 min, and then at room temperature for 4 hr. 1N Hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate (20 ml). The organic layer was washed with 10% brine (20 ml) and dried over anhydrous sodium sulfate. The organic layer was concentrated and acetone/water (1/1) (20 ml) was added to the obtained residue (brown oil). The mixture was dissolved under reflux and allowed to cool for crystallization. The crystals were collected by filtration, washed with H2O (5 ml) and dried in vacuo at 50° C. for 4 hr. Acetone/water (2/1) (30 ml) was added to the obtained crystals, the mixture was dissolved under reflux, and allowed to cool for crystallization. The crystals were collected by filtration and washed with water (5 ml). The crystals were dried in vacuo at 0° C. for 4 hr, and the objective product was obtained as white crystals (1.55 g, yield 86%).

reactant | (E)-8-(Hydroxyimino)-8-phenyloctanoic acid | 1.0 g | O\N=C(/CCCCCCC(=O)O)\C1=CC=CC=C1 | C14H19NO3
reactant | 4-{[4-(chloromethyl)phenoxy]methyl}-5-methyl-2-phenyl-1,3-oxazole | 1.26 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | Sodium tert-butoxide | 0.85 g | CC(C)([O-])C.[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | (E)-8-[({4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)imino]-8-phenyloctanoic acid | 1.55 g, yield 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)O)\C2=CC=CC=C2)C=C1 | C32H34N2O5
